US07192968B2
5-Chloro-6-fluoroindole-2-carboxylic acid
Methyl 5-chloro-6-fluoroindole-2-carboxylate (461 mg) was dissolved in a mixed solvent of tetrahydrofuran (15 ml), methanol (10 ml) and water (10 ml), lithium hydroxide (283 mg) was added at room temperature, and the mixture was stirred for 4 hours. The solvent was distilled off under reduced pressure, and 1N hydrochloric acid was added to the residue to weakly acidify it. The resultant powder was collected by filtration and dried to obtain the title compound (422 mg) as colorless powder.

reactant | Methyl 5-chloro-6-fluoroindole-2-carboxylate | 461 mg | ClC=1C=C2C=C(NC2=CC1F)C(=O)OC | C10H7ClFNO2
reactant | lithium hydroxide | 283 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 5-Chloro-6-fluoroindole-2-carboxylic acid | 422 mg | ClC=1C=C2C=C(NC2=CC1F)C(=O)O | C9H5ClFNO2
